US07064123B1
A mixture of 3-acetylsulfanyl-2-benzylsulfanylmethyl-propionic acid (0.200 g), prepared as in Reference 10, HOBt hydrate (0.13 g), aminoacetonitrile hydrochloride (0.15 g) and EDC (0.26 g) was treated with methylene chloride (6 mL) and N-methylmorpholine (0.35 mL). After stirring for 80 minutes at room temperature, the reaction mixture was diluted with ethyl acetate (50 mL) and washed sequentially with water, aqueous sodium bicarbonate and saturated aqueous sodium chloride. The solution was dried over magnesium sulfate and evaporated to give thioacetic acid S-[3-benzylsulfanyl-2-(cyanomethyl-carbamoyl)-propyl] ester (0.218 g).

reactant | 3-acetylsulfanyl-2-benzylsulfanylmethyl-propionic acid | 0.200 g | C(C)(=O)SCC(C(=O)O)CSCC1=CC=CC=C1 | C13H16O3S2
reactant | HOBt hydrate | 0.13 g | C1=CC=C2C(=C1)N=NN2O.O
reactant | aminoacetonitrile hydrochloride | 0.15 g | Cl.NCC#N
reactant | N-methylmorpholine | 0.35 mL | CN1CCOCC1 | C5H11NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
solvent | EDC | 0.26 g
product | thioacetic acid S-[3-benzylsulfanyl-2-(cyanomethyl-carbamoyl)-propyl] ester | 0.218 g | C(C1=CC=CC=C1)SCC(CSC(C)=O)C(NCC#N)=O | C15H18N2O2S2
